US06057326
(S)-4-[α-(hydroxymethyl)benzylamino]-6,7-dimethoxyquinazoline
A solution of 4-chloro-6,7-dimethoxyquinazoline (225 mg, 1 mmol), (S)-2-phenylglycinol (137.2 mg, 1 mmol) and triethylamine (304 mg, 3 mmol) in isopropanol (7 ml) was heated to reflux for about 8 h. Then the mixture was evaporated under vacuum to dryness and the residue purified by gradient elution chromatography on silica gel using as eluant dichloromethane/ethanol 2-6%. Thus pure title compound was obtained in 70% yield (228 mg).

reactant | 4-chloro-6,7-dimethoxyquinazoline | 1 mmol, 225 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OC | C10H9ClN2O2
reactant | (S)-2-phenylglycinol | 1 mmol, 137.2 mg | C1(=CC=CC=C1)[C@H](N)CO | C8H11NO
reactant | triethylamine | 3 mmol, 304 mg | C(C)N(CC)CC | C6H15N
solvent | isopropanol | 7 ml | C(C)(C)O | C3H8O
product | (S)-4-[α-(hydroxymethyl)benzylamino]-6,7-dimethoxyquinazoline | 70% yield | OC[C@H](C1=CC=CC=C1)NC1=NC=NC2=CC(=C(C=C12)OC)OC | C18H19N3O3
